US07622504B2
A 175 mg (0.738 mmol) sample of the above 3-oxo-2-(3-phenoxyphenyl)propanenitrile was reduced using sodium cyanoborohydride (51 mg, 0.81 mmol) in ethanol (1.25 mL) and acetic acid (90 μL) using the procedure described in Example 17 to give 158 mg (89% yield) of 3-hydroxy-2-(3-phenoxyphenyl)propanenitrile as a pale yellow viscous oil.

reactant | 3-oxo-2-(3-phenoxyphenyl)propanenitrile | O=CC(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1 | C15H11NO2
reactant | sodium cyanoborohydride | 0.81 mmol, 51 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 1.25 mL | C(C)O | C2H6O
solvent | acetic acid | 90 μL | C(C)(=O)O | C2H4O2
product | 3-hydroxy-2-(3-phenoxyphenyl)propanenitrile | 158 mg, 89% yield | OCC(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1 | C15H13NO2
